US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 30 mg, 0.070 mmol), pyridin-3-ylmethanamine (11.28 mg, 0.104 mmol), HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (28.1 mg, 0.278 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=10.7 min) to provide (R/S)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(pyridin-3-ylmethyl)acetamide-TFA (20 mg, 0.029 mmol, 41.8% yield): LCMS=522.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.72 (2 H, br. s.), 8.47 (1 H, d, J=8.14 Hz), 8.15 (2 H, d, J=8.58 Hz), 7.99 (1 H, dd, J=7.92, 5.94 Hz), 7.57-7.88 (7 H, m), 5.22 (1 H, s), 4.62 (2 H, s); HPLC peak RT=7.7 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
reactant | pyridin-3-ylmethanamine | 0.104 mmol, 11.28 mg | N1=CC(=CC=C1)CN | C6H8N2
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(pyridin-3-ylmethyl)acetamide TFA | 0.029 mmol, 20 mg, 41.8% yield | OC(C(=O)NCC=1C=NC=CC1)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1.C(=O)(C(F)(F)F)O | InChI=1S/C26H18F3N5O4.C2HF3O2/c27-26(28,29)19-20(33-37-22(19)17-6-2-1-3-7-17)25-32-23(34-38-25)18-10-8-16(9-11-18)21(35)24(36)31-14-15-5-4-12-30-13-15;3-2(4,5)1(6)7/h1-13,21,35H,14H2,(H,31,36);(H,6,7)
